US07173043B2
According to the method in example 29, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene and bis(2-methoxyethyl)amine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-bis-(2-methoxy-ethyl)-amine as light brown oil, MS: 492 (MH+,1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)Br)C1 | C18H16Br2OS
reactant | bis(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
product | {4-[3-(4-Bromo-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-bis-(2-methoxy-ethyl)-amine | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(CCOC)CCOC | C24H30BrNO3S
